US08486965B2
Production of ethyl 3-hydroxy-5-methylpyrazine-2-carboxylate
To a solution of propane-1,2-diamine (5.7 mL, 66.4 mmol) in ethanol (100 mL) was added dropwise diethyl ketomalonate (10 mL, 65.6 mmol) at 0° C., and the mixture was stirred at room temperature for 2 hr, and then stirred for 1 day with heating under reflux. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in a small amount of ethanol, and the solution was passed through silica gel (150 g, eluent, hexane:ethyl acetate=1:1→ethyl acetate). The eluate was concentrated under reduced pressure, and the precipitate was collected by filtration, and washed with diisopropyl ether to give the title compound (2.27 g, 19%) as a pale-orange powder. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=1:1→ethyl acetate) to give the title compound (726 mg, 6.1%) as a pale-yellow powder.

reactant | propane-1,2-diamine | 66.4 mmol, 5.7 mL | C(C(C)N)N | C3H10N2
reactant | diethyl ketomalonate | 65.6 mmol, 10 mL | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 3-hydroxy-5-methylpyrazine-2-carboxylate | 2.27 g, 19% | OC=1C(=NC=C(N1)C)C(=O)OCC | C8H10N2O3
